Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Imitrex / Zomig / tetanus toxoid, adsorbed
 
Attending: ___.
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ man with history of A. fib not on
anticoagulation, unspecified seizure disorder (described as
generalized tonic clonic convulsions as well as absence 
seizures)
on keppra, back and shoulder pain, and migraine headaches who 
was
brought in by EMS after his partner found him in an acute state
of confusion. History obtained by husband as patient is unclear
of events leading to his presentation to ___. 

Per husband, they are here on vacation from ___.
The patient was in his usual state of health earlier today, last
seen normal at 1700 when the husband had stepped out of the 
hotel
room. When he came back, he saw that the patient was "off", with
a glazed over appearance. When spoken to, the patient said a
totally unrelated word that was out of context to what his
husband was trying to ask. His husband new something was wrong
and was worried this was similar to his prior TIA ___ years 
ago).
EMS was called to the hotel room and he was brought to ___.
Initial assessment in ED was that patient was altered and
"chewing on a piece of paper" and not following commands. Code
stroke was called for aphasia. NIHSS 2 on my initial assessment
for disorientation to month and for mild aphasia (could not name
cookie cutter card, could not name low frequency objects,
repetition impaired). After scan, NIHSS improved to 1 and 
aphasia
was subjectively improving (the patient could describe the 
cookie
cutter card). He still had impaired repetition and inability to
name low frequency objects. tPA not given based on improvement 
in
exam. 

Regarding events leading to presentation:
Per husband, patient was in usual state of health during their
visit to ___. He is adherent to all of his medications. No
recreational drug use reported throughout vacation. He did walk
___ miles in the heat yesterday, which is atypical for him. He
had two beers prior to inciting event today. No recent fever,
chills, falls, foreign travel. No shaking episodes were noticed
when husband had found the patient altered, no lacerations, no
incontinence. Of note, the patient did complain of a slight
headache earlier in the day.

Regarding reported history of TIA and seizure , details are
unclear as records are not available (I tried to call ___
Neurology group (___) but their office was closed. Per
husband, he suffered a TIA about ___ years ago which initially
presented as acute confusion and difficulty finding words. The
husband thinks it may have been similar to episode on
presentation, although he is not ___ certain. Work-up at the
time revealed atrial fibrillation and he was started on
anti-arythmic and apparently also maintained on rate-control 
with
baby aspirin 81 mg. No reported residual symptoms from this. The
episode lasted about ___ hrs per husband.

The patient's last seizure was ___ years ago and was consistent
with generalized tonic clonic. He may have also had an episode 
of
aphasia in between which the outside hospital thought may be a
stroke but with later evaluation was determined to be a seizure. 

No details on auras but the husband does note that he often gets
aggressive/out of character post-ictal, sometimes even growling.
The husband cannot remember at the time how long this state
lasts. His seizure medications have not changed for years and he
has remained on keppra and fleicanide, which he is adamant also
helps his seizures. He is a pharmacist and has been stringent
about maintaining his regimen for atrial fibrillation (Cardizem,
fleicainide, aspirin 81 mg, no anti-coagulation).

Regarding history of migraines, details are also unclear but
patient reports not having migraines for years, husband concurs. 

Migraines were not typically accompanied by acute confusion or
aphasia. 

 
Past Medical History:
Hypertension
atrial fibrillation not on anti-coagulation
spondyloisis
congenital spinal stenosis
bulging discs
sciatica
right shoulder (lateral epicondylitis)
"insomnia induced seizures non-epileptic" (patient reports these
are absence seizures, he does not know if they have an
electrographic correlate)
migraine headaches
-s.p rhinoplasty ___
-s/p appendectomy ___
-s/p non-malignant mass removal left anterior thigh ___
 
Social History:
___
Family History:
reportedly no history of seizure or stroke, although patient is
still with conversational regressions on exam and his partner is
not certain
 
Physical Exam:
General: Awake, cooperative, amenable to exam. Appears older 
than
stated age.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented to self and spouse. Able to 
relay history without any difficulty. Attentive. Language fluent 
without paraphasic errors. Able to name high and low frequency 
objects. Able to read without
difficulty. No dysarthria. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to finger counting. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
___ absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      3     2
R   2     2      2      3     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

 
Pertinent Results:
___ 08:12PM BLOOD WBC-9.1 RBC-4.89 Hgb-15.9 Hct-47.0 MCV-96 
MCH-32.5* MCHC-33.8 RDW-13.2 RDWSD-47.3* Plt ___
___ 08:12PM BLOOD Glucose-109* UreaN-15 Creat-1.1 Na-137 
K-4.5 Cl-98 HCO3-24 AnGap-15
___ 08:12PM BLOOD ALT-23 AST-27 AlkPhos-62 TotBili-0.3
___ 08:12PM BLOOD cTropnT-<0.01
___ 08:12PM BLOOD Albumin-4.5 Calcium-9.7 Phos-5.9* Mg-2.0
___ 08:12PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

MRI ___ Preliminary Read:
 
FINDINGS:  
  
There is no evidence of acute hemorrhage, edema, masses, mass 
effect, midline 
shift or infarction. 
Tiny punctate microhemorrhage in the right globus pallidus, 
likely secondary 
to hypertension. 
  
Caliber and configuration of the ventricles and sulci is within 
normal limits. 
There is no abnormal enhancement after contrast administration. 
  
Major vascular flow voids are preserved. The intracranial 
vasculature is 
patent. Major dural venous sinuses are patent. 
  
There is moderate mucosal thickening in both maxillary sinuses. 
Mild mucosal 
thickening along the ethmoid air cells and right frontal sinus. 
The sphenoid 
sinuses are clear. The mastoid air cells are essentially clear. 
  
IMPRESSION: 
  
  
1. No acute intracranial abnormality. 
2. Punctate microhemorrhage in the right globus pallidus, likely 
secondary to 
hypertension. 
3. Moderate paranasal sinus disease as described above. 

Transthoracic Echo ___
The left atrium is elongated. There is premature appearance of a 
large amount (>30 microbubbles) of
agitated saline in the left heart at rest c/w a atrial septal 
defect/large patent foramen ovale. The estimated
right atrial pressure is ___ mmHg. There is normal left 
ventricular wall thickness with a normal cavity
size. There is normal regional and global left ventricular 
systolic function. No thrombus or mass is seen
in the left ventricle. Quantitative biplane left ventricular 
ejection fraction is 66 %. There is no resting left
ventricular outflow tract gradient. There is normal diastolic 
function. Normal right ventricular cavity
size with normal free wall motion. The aortic sinus diameter is 
normal for gender with normal ascending
aorta diameter for gender. The aortic arch diameter is normal. 
There is no evidence for an aortic arch
coarctation. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. There is
trace aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal.
There is physiologic tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is normal.
There is no pericardial effusion.
IMPRESSION: Large amount of agitated saline identified in the 
left ventricle early after injection
consistent with a stretched patent foramen ovale or atrial 
septal defect. Normal biventricular cavity sizes,
regional/global systolic function. No valvular pathology or 
pathologic flow identified. Normal estimated
pulmonary artery systolic pressure.

CTA ___:
IMPRESSION: 
  
  
1. No evidence of mass, hemorrhage or infarction. 
2. No perfusion abnormality demonstrated. 
3. Normal intracranial CTA. 
4. Neck CTA compromised by motion artifact at the internal 
carotid artery 
origins.  Are possible stenoses, not adequately characterized. 
5. Doses at the origin of the left vertebral artery. 

 
Brief Hospital Course:
___ year old man with atrial fibrillation not on
anticoagulation, seizures, HTN, migraine who presented for
evaluation of acute confusional state (glazed over appearance,
chewing on paper, conductive aphasia) for which code stroke was
activated. NIHSS2. Exam on admission notable for impaired 
repetition, frequent paraphasic errors, frequent conversational 
regressions. 
Imaging is notable for atrophy out of proportion to age, with 
some lefttemporal lobe atrophy. No signs of acute hemorrhage, 
large
territory occlusion, mass effect. MRI did not show an acute 
stroke. Patient's exam completely benign within 8 hours of 
presentation to emergency department. Clinical presentation 
appears to be most consistent with seizure with post-ictal 
state, although given history of possible TIA (although sounds 
more likely that this event was also a seizure) and risk factor 
of atrial fibrillation not on A/C, cannot definitively rule out 
embolic event. His keppra was increased from 500mg BID to ___ 
BID.

***After discharge the results of the TTE came back showing a 
PFO. A message was left for the patient to discuss results and 
to get the name and contact information of his cardiologist.

Transitional Issues:
-Follow-up with cardiology for ECHO results, holtor or ILD 
monitoring, discussion of possibility of anticoagulation
-Follow-up with neurology for optimization of ASDs. Would 
recommend lacosamide as has few side effects.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cardizem CD 120 mg oral DAILY 
2. irbesartan 75 mg oral DAILY 
3. Flecainide Acetate 100 mg PO Q12H 
4. Aspirin 81 mg PO DAILY 
5. LevETIRAcetam 500 mg PO BID 
6. Ambien CR (zolpidem) 12.5 mg oral QHS 
7. Omeprazole 20 mg PO DAILY 
8. Ondansetron ___ mg PO Q6H:PRN nausea 
9. OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - Severe 

 
Discharge Medications:
1.  LevETIRAcetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*1 
2.  Ambien CR (zolpidem) 12.5 mg oral QHS  
3.  Aspirin 81 mg PO DAILY  
4.  Cardizem CD 120 mg oral DAILY  
5.  Flecainide Acetate 100 mg PO Q12H  
6.  irbesartan 75 mg oral DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  Ondansetron ___ mg PO Q6H:PRN nausea  
9.  OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - Severe 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

 You were hospitalized due to symptoms of confusion and memory 
loss. We believe that these symptoms were most likely related to 
a seizure, but it is also possible that they occurred as a 
result of a Transient Ischemic Attack (TIA), a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke/TIA can have many different causes, so we assessed you 
for medical conditions that might raise your risk of having 
stroke. In order to prevent future strokes, we plan to modify 
those risk factors. Your risk factors are:  
 - Atrial Fibrillation
 - Hypertension 

 We are changing your medications as follows:  
 - Increase Keppra to 750mg twice daily 

 Please take your other medications as prescribed.

It is important that you follow-up with your cardiologist when 
you get home to discuss your risks for stroke and whether or not 
you should be on a blood thinner in more detail. We recommend 
that you get a transthoracic echocardiogram to look more closely 
at your heart, and to do further monitoring with either a holtor 
monitor or ILD (he will know what these things are).  

We also recommend that you follow up with your neurologist. 
Since you have had several generalized tonic clonic seizures 
while on keppra at a dose of 500mg twice a day. For now, we will 
increase your dose to 750mg twice a day. But since you get side 
effects from higher drug levels, you should talk about 
alternative anti-seizure medications. We would recommend 
lacosamide, as it does not have many side effects. Things that 
provoke seizures are sleep deprivation, over-exertion, missing 
meals and infection, so be sure to avoid these triggers.

 Please follow up with Neurology, your primary care physician, 
and your Cardiologist to discuss the possibility of beginning 
anticoagulation to reduce your risk of stroke given your atrial 
fibrillation.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___